US04559354
48.1 g of ammonium acetate and 300 ml of concentrated ammonia are added to a solution of 81.6 g of 4-methoxybenzaldehyde in 1.5 liters of methanol and 300 ml of water. 81.0 g of 3,3-dibromotrifluoroacetone are then added dropwise at room temperature and the reaction mixture is subsequently stirred for 18 hours. The methanol is removed in a rotary evaporator, the aqueous emulsion that remains behind is extracted several times with ethyl acetate, the organic phase is dried and concentrated to a small volume. The addition of hexane and cooling in an ice bath causes the product to crystallise. After filtering off and drying in vacuo at 60°, 2-(4-methoxyphenyl)-4-(trifluoromethyl)-imidazole having a melting point of 197°-202° is obtained. (20b) At an internal temperature of 0°-5°, first of all 5.62 g of potassium tert.-butoxide are added to a solution of 11.14 g of 2-(4-methoxyphenyl)-4-(trifluoromethyl)-imidazole in 107 ml of dimethylformamide. After 20 minutes, a solution of 3.8 ml of methyl iodide in 15 ml of dimethylformamide is slowly added, dropwise, while stirring and the reaction mixture is then stirred at room temperature for a further 4 hours. After removing the dimethylformamide in a rotary evaporator, the residue is made into a slurry with water and the aqueous phase is extracted several times with ethyl acetate. The combined organic phases are dried over sodium sulphate, concentrated to a small volume and hexane is added until crystallisation begins. After filtering and drying in vacuo, 2-(4-methoxyphenyl)-1-methyl-4-(trifluoromethyl)-imidazole having a melting point of 87°-88° is obtained.

reactant | ammonium acetate | 48.1 g | C(C)(=O)[O-].[NH4+]
reactant | ammonia | 300 ml | N | H3N
reactant | 4-methoxybenzaldehyde | 81.6 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 3,3-dibromotrifluoroacetone | 81.0 g | BrC(C(C(F)(F)F)=O)Br | C3HBr2F3O
solvent | methanol | 1.5 liters | CO | CH4O
solvent | water | 300 ml | O | H2O
product | 2-(4-methoxyphenyl)-4-(trifluoromethyl)-imidazole | COC1=CC=C(C=C1)C=1NC=C(N1)C(F)(F)F | C11H9F3N2O
